US08859549B2
4-(2-ethylmorpholino)phthalazin-1(2H)-one
4-chlorophthalazin-1(2H)-one and 2-ethylmorpholine were processed using a method similar to that described in Example 1A to afford the title compound. MS (APCI+) M/Z 260 (M+H)+.

reactant | 4-chlorophthalazin-1(2H)-one | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | 2-ethylmorpholine | C(C)C1CNCCO1 | C6H13NO
product | 4-(2-ethylmorpholino)phthalazin-1(2H)-one | C(C)C1OCCN(C1)C1=NNC(C2=CC=CC=C12)=O | C14H17N3O2
